US06562807B2
4-[3-(3,5-Bis(trifluoromethyl)phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid methyl ester (4.2 g, 7.36 mmol) was suspended in ethanol (80 mL) and added sodium hydroxide (4 N, 11 mL) and stirred at room temperature for 16 hours. The reaction mixture was concentrated to dryness in vacuo, and the residue was added water (50 mL) and acidified with hydrochloric acid (4 N, 12 mL). The aqueous phase was extracted twice with ethyl acetate (75 mL and 25 mL) and the combined organic phases were washed with water (3×15 mL), dried (magnesium sulphate) and concentrated in vacuo to afford 4-[3-(3,5-bis(trifluoromethyl)-phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid.

reactant | 4-[3-(3,5-Bis(trifluoromethyl)phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid methyl ester | 7.36 mmol, 4.2 g | COC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C1CCCCC1)=O | C30H28F6N2O3
reactant | sodium hydroxide | 4 N, 11 mL | [OH-].[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 4-[3-(3,5-bis(trifluoromethyl)-phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)O)C=C1)=O)(F)F | C29H26F6N2O3
